US06335341B1
To a mixture of oil 1-benzyloxycarbonyl-4-ethoxycarbonyl-piperazine (30 g) in tetrahydrofuran (200 ml) was added lithiumborohydride (2.7 g) and stirred at 60° C. for 5 hours. To quench thc mixture, added methanol, dilute hydrochloric acid and then concentrated hydrochloric acid. Diluted with diethylether and resulting suspension washed with water (×2) dilute sodiumbicarbonate then brine, dried (MgSO4) and evaporated to give as a colourless oil oil 1-benzyloxycarbonyl-4-hydroxy-piperazine (23 g) which was used directly in the next step without further purification or characterisation.

reactant | 1-benzyloxycarbonyl-4-ethoxycarbonyl-piperazine | 30 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)OCC | C15H20N2O4
reactant | lithiumborohydride | 2.7 g | [BH4-].[Li+]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-benzyloxycarbonyl-4-hydroxy-piperazine | 23 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)O | C12H16N2O3
